US04426386
A mixture of methyl-3-(1-propionylpiperidin-3-yl)benzoate (4.8 g, 0.017 mol), sodium hydroxide pellets (5 g), methanol (80 ml) and water (20 ml) was stirred until TLC indicated that no starting material remained (4 hours). The methanol was evaporated and the alkaline water layer was washed with ether, acidified with hydrochloric acid and extracted with chloroform. Evaporation gave the product (4.0 g, 69% yield from methyl-3-(3-pyridyl)-benzoate) as an oil which crystallized after several weeks on standing. (Mp. 125°-126° C.).

reactant | methyl-3-(1-propionylpiperidin-3-yl)benzoate | 0.017 mol, 4.8 g | COC(C1=CC(=CC=C1)C1CN(CCC1)C(CC)=O)=O | C16H21NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 80 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | methyl-3-(3-pyridyl)-benzoate | 69% yield | COC(C1=CC(=CC=C1)C=1C=NC=CC1)=O | C13H11NO2
